US08431575B2
To a solution of (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-methoxymethoxy-piperidine-1-carboxylic acid tert-butyl ester (1.03 mmol, 0.60 g) in DCM (5 mL) was added 4 N HCl in dioxane (5 mL). The solution was stirred for 2 hours. The solvents were removed with reduced pressure and the salt was triturated with diethyl ether and filtered to give (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-piperidin-3-ol dihydrochloride (0.50 g).

reactant | (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-3-methoxymethoxy-piperidine-1-carboxylic acid tert-butyl ester | 1.03 mmol, 0.60 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)COC=1N=NC(=C(C1)C1=CC=C(C=C1)OC1CCCCC1)CCCC)OCOC | C33H49N3O6
reactant | HCl | 4 N | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (±)-cis-4-[6-butyl-5-(4-cyclohexyloxy-phenyl)-pyridazin-3-yloxymethyl]-piperidin-3-ol dihydrochloride | 0.50 g | Cl.Cl.C(CCC)C1=C(C=C(N=N1)OC[C@@H]1[C@@H](CNCC1)O)C1=CC=C(C=C1)OC1CCCCC1 | InChI=1S/C26H37N3O3.2ClH/c1-2-3-9-24-23(16-26(29-28-24)31-18-20-14-15-27-17-25(20)30)19-10-12-22(13-11-19)32-21-7-5-4-6-8-21;;/h10-13,16,20-21,25,27,30H,2-9,14-15,17-18H2,1H3;2*1H/t20-,25-;;/m1../s1
